US07544699B2
A solution of (2S)-{[7-(4-tert-butyl-cyclohexylcarbamoyl)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}3,3-dimethylbutyric acid methyl ester (18 mg, 0.032 mmol) in THF:MeOH(4:1, 2.0 mL) was treated with a solution of LiOH (2.0 M, 0.240 mL) by the general procedure I to give 15 mg of 2(S)-{[7-(4-tert-butyl-cyclohexylcarbamoyl)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]amino}3,3-dimethylbutyric acid as a white solid.

reactant | (2S)-{[7-(4-tert-butyl-cyclohexylcarbamoyl)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}3,3-dimethylbutyric acid methyl ester | 0.032 mmol, 18 mg | COC([C@H](C(C)(C)C)NC(=O)C=1N=C(C2=CC(=CC=C2C1)C(NC1CCC(CC1)C(C)(C)C)=O)CC1CCCC1)=O | C34H49N3O4
reactant | LiOH | 2.0 M, 0.240 mL | [Li+].[OH-]
solvent | THF MeOH | 2.0 mL | C1CCOC1.CO
product | 2(S)-{[7-(4-tert-butyl-cyclohexylcarbamoyl)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]amino}3,3-dimethylbutyric acid | 15 mg | C(C)(C)(C)C1CCC(CC1)NC(=O)C1=CC=C2C=C(N=C(C2=C1)CC1CCCC1)C(=O)N[C@H](C(=O)O)C(C)(C)C | C33H47N3O4
